US08304419B2
Step C: 2-[(4-chloro-3-hydroxyphenyl)methyl]-1H-isoindole-1,3(2H)-dione
2-{[4-Chloro-3-(methyloxy)phenyl]methyl}-1H-isoindole-1,3(2H)-dione (7.0 g, 23 mmol) was dissolved in CH2Cl2 (25 mL) and cooled to 0° C. Boron tribromide (1.0 M solution, 46 mL) was added slowly then the solution was warmed to RT and stirred for 4 h. The reaction was cooled to 0° C. and ice water (100 mL) and EtOAc (200 mL) were added. The aqueous layer was separated and extracted with EtOAc (2×200 mL). The organic extracts were combined, dried over Na2SO4, filtered, evaporated and triturated with hexanes to afford the title compound (6.5 g, 97%) as a tan solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 10.15 (s, 1H), 7.87 (d, 2H), 7.87 (ddd, 2H), 7.25 (d, 1H), 6.88 (d, 1H), 6.74 (dd, 1H), 4.66 (s, 2H). MS: m/z 286.0 (M−1).

reactant | 2-{[4-Chloro-3-(methyloxy)phenyl]methyl}-1H-isoindole-1,3(2H)-dione | 23 mmol, 7.0 g | ClC1=C(C=C(C=C1)CN1C(C2=CC=CC=C2C1=O)=O)OC | C16H12ClNO3
reactant | Boron tribromide | 1.0 M, 46 mL | B(Br)(Br)Br | BBr3
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-[(4-chloro-3-hydroxyphenyl)methyl]-1H-isoindole-1,3(2H)-dione | 6.5 g, 97% | ClC1=C(C=C(C=C1)CN1C(C2=CC=CC=C2C1=O)=O)O | C15H10ClNO3
